US04913891
Preparation of N-[3-(2,4-Dichlorophenoxyl)propyl]-2-propynyl amine (norclorgyline)
2.3 ml of 87% pure 3-(2,4-dichlorophenoxyl) propylbromide (2.99 g; 0.011 mole) and 1.6 ml propargylamine (1.38 g; 0.025 mole) in 30 ml CH3CN and 1.65 g k2CO3 in 3 ml H2O were stirred at room temperature for 5 days.

reactant | 3-(2,4-dichlorophenoxyl) propylbromide | 0.011 mole, 2.3 ml, 2.99 g | ClC1=C(OCCCBr)C=CC(=C1)Cl | C9H9BrCl2O
reactant | propargylamine | 0.025 mole, 1.6 ml, 1.38 g | C(C#C)N | C3H5N
solvent | CH3CN | 30 ml | CC#N | C2H3N
solvent | H2O | 3 ml | O | H2O
product | N-[3-(2,4-Dichlorophenoxyl)propyl]-2-propynyl amine | ClC1=C(OCCCNCC#C)C=CC(=C1)Cl | C12H13Cl2NO
